US06586617B1
Synthesis of 2′-Cyano-N-methoxy-4′-nitro-p-toluenesulfonanilide (Compound No. 535)
To a suspension of sodium hydride (60%, 0.09 g (2.25 mmol)) in 3.0 ml of DMF, N-methoxy-p-toluenesulfonamide (0.45 g (2.20 mmol)) was added under cooling with ice and with stirring. To the resulting mixture, after 15 minutes' stirring under cooling with ice, 2-chloro-5-nitrobenzonitrile (0.37 g (2.03 mmol)) was added and the mixture was stirred under cooling with ice for one hour and at room temperature for 18 hours. The reaction mixture was then poured into water and extracted with diethyl ether. The extract was washed twice with water, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:5) as eluent to give 0.48 g (68%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | N-methoxy-p-toluenesulfonamide | 2.20 mmol, 0.45 g | CONS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO3S
reactant | 2-chloro-5-nitrobenzonitrile | 2.03 mmol, 0.37 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 2′-Cyano-N-methoxy-4′-nitro-p-toluenesulfonanilide | 0.48 g, 68% | C(#N)C1=C(N(S(=O)(=O)C2=CC=C(C=C2)C)OC)C=CC(=C1)[N+](=O)[O-] | C15H13N3O5S
